US05716756
4.1 g (10 mmol) of 1,3-bis-(2,2,2-trifluoro-1-hydroxy-1-trifluoromethylethyl)-benzene were dissolved in 20 ml of dry DMF, and 0.75 g (25 mmol) of sodium hydride (80% strength dispersion) was added. The clear solution formed was stirred for a further 30 minutes. 5.25 g (25 mmol) of 4-chlorobenzenesulfonyl chloride in 15 ml of DMF were then added dropwise at 10° to 15° C. The mixture was stirred for 48 hours at room temperature and poured into water. The crystalline precipitate was filtered off, rinsed with water and dried. The residue was chromatographed over a silica gel column with methylene chloride. 4.2 g of 1,3-bis-[1-(4-chlorobenzenesulfonyloxy)-2,2,2-trifluoro-1-trifluoromethylethyl]-benzene were obtained (colorless crystals, m.p.: 125° C.).

reactant | 1,3-bis-(2,2,2-trifluoro-1-hydroxy-1-trifluoromethylethyl)-benzene | 10 mmol, 4.1 g | FC(C(C(F)(F)F)(O)C1=CC(=CC=C1)C(C(F)(F)F)(O)C(F)(F)F)(F)F | C12H6F12O2
reactant | sodium hydride | 25 mmol, 0.75 g | [H-].[Na+]
reactant | 4-chlorobenzenesulfonyl chloride | 25 mmol, 5.25 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | water | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 1,3-bis-[1-(4-chlorobenzenesulfonyloxy)-2,2,2-trifluoro-1-trifluoromethylethyl]-benzene | 4.2 g | ClC1=CC=C(C=C1)S(=O)(=O)OC(C(F)(F)F)(C(F)(F)F)C1=CC(=CC=C1)C(C(F)(F)F)(OS(=O)(=O)C1=CC=C(C=C1)Cl)C(F)(F)F | C24H12Cl2F12O6S2
